US07985755B2
5-[4-(4-Fluoro-benzenesulfonyl)-piperazin-1-yl]-quinazoline-2,4-diamine
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 4-fluorobenzene-sulfonyl chloride (79.8 mg; 0.41 mmol) to obtain 33.2 mg. (41% yield). 1H NMR (500 MHz, DMSO-d6) δ 8.35 (s, 1H), 7.89 (m, 2H), 7.54 (t, J=8.5 Hz, 2H), 7.38 (t, J=7.5 Hz, 1H), 6.97 (d, J=8.5 Hz, 1H), 6.93 (s, 1H), 6.83 (d, J=8.0 Hz, 1H), 5.92 (br s, 2H), 3.73 (d, J=11.5 Hz, 2H), 3.11 (d, J=12.0 Hz, 2H), 2.85 (t, J=11.5 Hz, 1H), 2.59 (t, J=11.5 Hz, 2H). ESIMS+404.4.5 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 4-fluorobenzene-sulfonyl chloride | 0.41 mmol, 79.8 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 5-[4-(4-Fluoro-benzenesulfonyl)-piperazin-1-yl]-quinazoline-2,4-diamine | 41% yield | FC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C18H19FN6O2S
